US04536508
N-[[1-methyl-2-(phenylmethylene)hydrazino][[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]methylene]benzeneacetamide
A mixture of 3-[3-(1-piperidinylmethyl)phenoxy]propanamine (0.38 g) and methyl 1-methyl-N-phenylacetyl-2-(phenylmethylene)hydrazinecarboximidothioate (0.5 g) was heated at 50° under water pump vacuum during 4 h. The residue was dissolved in cyclohexane (20 ml) and light petroleum (b.p. 60°-80°) was added. The precipitate was removed by filtration and the filtrate was evaporated to give the title compound (0.65 g) as a colourless oil. tlc. System A Rf 0.7.

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propanamine | 0.38 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | methyl 1-methyl-N-phenylacetyl-2-(phenylmethylene)hydrazinecarboximidothioate | 0.5 g | CN(N=CC1=CC=CC=C1)C(=NC(CC1=CC=CC=C1)=O)SC | C18H19N3OS
solvent | cyclohexane | 20 ml | C1CCCCC1 | C6H12
product | N-[[1-methyl-2-(phenylmethylene)hydrazino][[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]methylene]benzeneacetamide | 0.65 g | CN(N=CC1=CC=CC=C1)C(=NC(CC1=CC=CC=C1)=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C32H39N5O2
